US07858796B2
(64) 5-[5-(1-pyrrolidinylmethyl)-2-thienyl]-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
To a solution of 5-(5-formyl-2-thienyl)-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide (8.3 mg, 0.016 mmol) in methylene chloride (5 mL) was added pyrrolidine (0.001 mL, 0.016 mmol). The reaction mixture was stirred at room temperature for 1 hour before NaBH(OAc)3 (10.2 mg, 0.048 mmol) was added. The reaction mixture was stirred at room temperature overnight and evaporated all the solvent. The residue was purified by using a Gilson semi-preparative HPLC system, eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) pumped at 25 mL/min to give the title compound (7 mg, 92%).

reactant | 5-(5-formyl-2-thienyl)-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 0.016 mmol, 8.3 mg | C(=O)C1=CC=C(S1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCCC1 | C26H32N4O4S2
reactant | pyrrolidine | 0.016 mmol, 0.001 mL | N1CCCC1 | C4H9N
reactant | NaBH(OAc)3 | 0.048 mmol, 10.2 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(1-pyrrolidinylmethyl)-2-thienyl]-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 7 mg, 92% | N1(CCCC1)CC1=CC=C(S1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCCC1 | C30H41N5O3S2
